US08623880B2
1,3,6-Trimethyl-5-nitrouracil:
A mixture of concentrated H2SO4 (7.0 mL) and fuming HNO3 (7.0 mL) was cooled to 0-5° C. and 1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione (3.5 g, 22.702 mmol) was gradually added to the reaction mixture. After stirring for 2 h. at the same temperature the reaction mixture was partitioned between ethyl acetate (200 mL) and water (100 mL). The organic layer was washed with brine (2×50 mL), dried (Na2SO4) and evaporated under reduced pressure. Crude product obtained was purified by column chromatography to give 1.30 g of the product as yellow solid; 1H NMR (δ ppm, 300 MHz, DMSO-d6) 2.38 (s, 3H), 3.20 (s, 3H), 3.40 (s, 3H); APCI-MS (m/z) 198.30 (M−H).

reactant | H2SO4 | 7.0 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 7.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione | 22.702 mmol, 3.5 g | CN1C(N(C(C=C1C)=O)C)=O | C7H10N2O2
product | 1,3,6-Trimethyl-5-nitrouracil | 1.30 g | CN1C(=O)N(C(=O)C(=C1C)[N+](=O)[O-])C | C7H9N3O4
